US07723332B2
According to general procedure B, 4-bromo-N-(cyclopropylmethyl)-2-fluorobenzenesulfonamide (181 mg, 0.59 mmol), 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid (106 mg, 0.70 mmol), potassium fluoride (113 mg, 1.95 mmol), and tris(dibenzylideneacetone)dipalladium(0) (15 mg, 0.01 mmol) were placed in an oven dried flask under nitrogen and dry THF (1.4 mL) was added. Tri-t-butylphosphine (89 μL, 0.02 mmol, 10 wt % in hexane) was added and the reaction was stirred for 16 hours. 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-N-(cyclopropylmethyl)-2-fluorobenzenesulfonamide (20 mg, 10%) was provided after purification. MS (ESI) m/z 333. HPLC purity 100.0% at 210-370 nm, 11.4 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-bromo-N-(cyclopropylmethyl)-2-fluorobenzenesulfonamide | 0.59 mmol, 181 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1CC1)F | C10H11BrFNO2S
reactant | 5-cyano-1-methyl-1H-pyrrol-2-ylboronic acid | 0.70 mmol, 106 mg | C(#N)C1=CC=C(N1C)B(O)O | C6H7BN2O2
reactant | potassium fluoride | 1.95 mmol, 113 mg | [F-].[K+]
reactant | Tri-t-butylphosphine | 0.02 mmol, 89 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-N-(cyclopropylmethyl)-2-fluorobenzenesulfonamide | 20 mg, 10% | C(#N)C1=CC=C(N1C)C1=CC(=C(C=C1)S(=O)(=O)NCC1CC1)F | C16H16FN3O2S
